US08802713B2
0.5 g of 5-acetylamino-1-{2-fluoro-4-methyl-5-(2,2,2-trifluoroethylthio)phenyl}-3-hydroxypyrazole was dissolved in 10 mL of dimethylsulfoxide, and 0.28 g of potassium carbonate and 1.0 g of 2,2-difluoro-2-{2-trifluoromethoxy-(1,1,2,2-tetrafluoroethoxy)}ethyl nonafluorobutylsulfonate were added, followed by stirring at room temperature for 12 hours. After completion of the reaction, the reaction solution was poured into water, extraction with ethyl acetate was carried out, and after washing with a saturated salt solution, the organic layer was dried over anhydrous magnesium sulfate, the solvent was distilled off under reduced pressure, and the obtained residue was purified by column chromatography (ethyl acetate:hexane=1:4) to obtain 0.67 g of 5-acetylamino-3-[2,2-difluoro-2-{2-trifluoromethoxy-(1,1,2,2-tetrafluoroethoxy)}ethoxy]-1-{2-fluoro-4-methyl-5-(2,2,2-trifluoroethylthio)phenyl}pyrazole.

reactant | 5-acetylamino-1-{2-fluoro-4-methyl-5-(2,2,2-trifluoroethylthio)phenyl}-3-hydroxypyrazole | 0.5 g | C(C)(=O)NC1=CC(=NN1C1=C(C=C(C(=C1)SCC(F)(F)F)C)F)O | C14H13F4N3O2S
reactant | potassium carbonate | 0.28 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2,2-difluoro-2-{2-trifluoromethoxy-(1,1,2,2-tetrafluoroethoxy)}ethyl nonafluorobutylsulfonate | 1.0 g | FC(C(C(F)(F)S(=O)(=O)OCC(OC(C(F)(F)OC(F)(F)F)(F)F)(F)F)(F)F)(C(F)(F)F)F | C9H2F18O5S
reactant | water | O | H2O
solvent | dimethylsulfoxide | 10 mL | CS(=O)C | C2H6OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-acetylamino-3-[2,2-difluoro-2-{2-trifluoromethoxy-(1,1,2,2-tetrafluoroethoxy)}ethoxy]-1-{2-fluoro-4-methyl-5-(2,2,2-trifluoroethylthio)phenyl}pyrazole | 0.67 g | C(C)(=O)NC1=CC(=NN1C1=C(C=C(C(=C1)SCC(F)(F)F)C)F)OCC(OC(C(F)(F)OC(F)(F)F)(F)F)(F)F | C19H14F13N3O4S
